US07282501B2
Step 3: Biphenyl-4-carboxylic acid 2-amino-3-methoxycarbonyl-1-methyl-allyl ester
A mixture of biphenyl-4-carboxylic acid 3-methoxycarbonyl-1-methyl-2-oxo-propyl ester (1275 g, 3.9 mol, 1 eq) and ammonium acetate (640 g, 8.3 mol) in ethanol (10 L) was heated with stirring at 70-75° C. until the keto ester compound is completely consumed (1-2 h). The mixture was then kept at 0-5° C. for 1.5 h. The precipitated solid was collected by filtration and washed with hexanes (2.5 L). The product was dried overnight under vacuum at 50° C. to obtain 1244 g (90% yield, 98% HPLC purity) of the title compound.

reactant | biphenyl-4-carboxylic acid 3-methoxycarbonyl-1-methyl-2-oxo-propyl ester | 3.9 mol, 1275 g, 1 eq | COC(=O)CC(C(C)OC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C19H18O5
reactant | ammonium acetate | 8.3 mol, 640 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 10 L | C(C)O | C2H6O
product | Biphenyl-4-carboxylic acid 2-amino-3-methoxycarbonyl-1-methyl-allyl ester | 90% yield | NC(C(C)OC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)=CC(=O)OC | C19H19NO4
